US04440933
A. N-{2-[(5-dimethylaminomethyl-3-thienyl)methylthio]ethyl}-ethanediimidamide trihydrochloride
A suspension of 3-amino-4-{2-[(5-dimethylaminomethyl-3-thienyl)methylthio]ethylamino}-1,2,5-thiadiazole 1-oxide (7.8 g; 22.6 mmoles) [prepared according to the procedure of U.S. Pat. No. 4,374,248] in 150 ml of methanol was treated with 15.0 ml of concentrated HCl. After stirring at ambient temperature for 3 hours, the solution was concentrated and the residue triturated with 1-propanol, filtered and dried to give 7.38 g (80%) of product. A sample was recrystallized from methanol-acetone to give the title compound, mp 190°-205° C. (dec.).

reactant | 3-amino-4-{2-[(5-dimethylaminomethyl-3-thienyl)methylthio]ethylamino}-1,2,5-thiadiazole 1-oxide | 22.6 mmoles, 7.8 g | NC1=NS(N=C1NCCSCC1=CSC(=C1)CN(C)C)=O | C12H19N5OS3
reactant | HCl | 15.0 ml | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
product | N-{2-[(5-dimethylaminomethyl-3-thienyl)methylthio]ethyl}-ethanediimidamide trihydrochloride | 7.38 g, 80% | Cl.Cl.Cl.CN(C)CC1=CC(=CS1)CSCCNC(C(N)=N)=N | InChI=1S/C12H21N5S2.3ClH/c1-17(2)6-10-5-9(8-19-10)7-18-4-3-16-12(15)11(13)14;;;/h5,8H,3-4,6-7H2,1-2H3,(H3,13,14)(H2,15,16);3*1H
